US05204473
2,4-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-6-n-butylamino-1,3,5-triazine
A mixture of 5.0 g (22.5 mmol) of 2,4-dichloro-6-n-butylamino-1,3,5-triazine, 21.1 g (67.8 mmol) of 1-cyclohexyloxy-4-n-butylamino-2,2,6,6-tetramethylpiperidine, 100 ml of xylene, and 5.4 g of 50% aqueous sodium hydroxide is heated at reflux for 16 hours. The reaction mixture is partitioned between ether and water. The ether layer is washed with 1N HCl (2×100 ml), saturated sodium bicarbonate (100 ml) and saturated sodium chloride (100 ml), then dried over magnesium sulfate and concentrated. The crude product is purified by flash chromatography (heptane) and crystallized from ethanol to afford 7.6 g (44% yield) of the title compound, a glass, m.p. 80°-86° C.

reactant | 2,4-dichloro-6-n-butylamino-1,3,5-triazine | 22.5 mmol, 5.0 g | ClC1=NC(=NC(=N1)Cl)NCCCC | C7H10Cl2N4
reactant | 1-cyclohexyloxy-4-n-butylamino-2,2,6,6-tetramethylpiperidine | 67.8 mmol, 21.1 g | C1(CCCCC1)ON1C(CC(CC1(C)C)NCCCC)(C)C | C19H38N2O
reactant | sodium hydroxide | 5.4 g | [OH-].[Na+]
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4-bis[N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)-n-butylamino]-6-n-butylamino-1,3,5-triazine | 7.6 g, 44% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)N(C1=NC(=NC(=N1)N(C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C)CCCC)NCCCC)CCCC)(C)C | C45H84N8O2
